US07700625B2
A mixture of 5-bromo-2,3-dihydro-1H-isoindole (1.26 g; 6.4 mmol), di-tert-butyl dicarbonate (1.53 g; 1.1 equiv.) and 4-dimethylaminopyridine (catalytic amount) in DMF (20 ml) was stirred at room temperature overnight then evaporated. The residue was partitioned between EtOAc and brine, the EtOAc layer was separated, dried (MgSO4) and evaporated. Purification by flash column chromatography using a Biotage SP4 (40 S, 40 ml/min) eluting with 0% to 5% MeOH/DCM gave 695 mg of 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester as a brown gum. 1HNMR (DMSO-d6) 7.55 (1H, d), 7.48 (1H, d), 7.30 (1H, dd), 4.63-4.51 (4H, m), 1.46 (9H, s).

reactant | 5-bromo-2,3-dihydro-1H-isoindole | 6.4 mmol, 1.26 g | BrC=1C=C2CNCC2=CC1 | C8H8BrN
reactant | di-tert-butyl dicarbonate | 1.53 g, 1.1 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 695 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
